US07625929B2
A solution of 2 g (2.88 mmol) of trans-4-{4-[benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)amino]cyclohexyl}benzoic acid (Preparation 1), 0.78 g (5.76 mmol) of 1-hydroxybenzotriazole, 1.1 g (5.76 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide, 1.2 ml of triethylamine and 1.01 ml (5.76 mmol) of 4-benzylpiperidine in a mixture of 26 ml of dichloromethane and 5 ml of acetonitrile is stirred for 24 hours. The solvents are evaporated under reduced pressure. Dichloromethane and water are added and the organic phase is washed three times with water. The organic phases are dried over magnesium sulfate and concentrated under reduced pressure. N-[5-({(2S)-3-[benzyl(4-{4-[(4-benzylpiperidin-1-yl)carbonyl]phenyl}-cyclohexyl)amino]-2-hydroxypropyl}oxy)-2-(benzyloxy)phenyl]methanesulfonamide is obtained in the form of a white solid (1.355 g, 57%) after purification on silica gel (eluent: dichloromethane/methanol 90/10). [M+H+]=816.6.

reactant | trans-4-{4-[benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)amino]cyclohexyl}benzoic acid | 2.88 mmol, 2 g | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)O)C=C1)C[C@@H](COC1=CC(=C(C=C1)OCC1=CC=CC=C1)NS(=O)(=O)C)O | C37H42N2O7S
reactant | 1-hydroxybenzotriazole | 5.76 mmol, 0.78 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 5.76 mmol, 1.1 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 4-benzylpiperidine | 5.76 mmol, 1.01 ml | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
solvent | dichloromethane | 26 ml | ClCCl | CH2Cl2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
product | N-[5-({(2S)-3-[benzyl(4-{4-[(4-benzylpiperidin-1-yl)carbonyl]phenyl}-cyclohexyl)amino]-2-hydroxypropyl}oxy)-2-(benzyloxy)phenyl]methanesulfonamide | C(C1=CC=CC=C1)N(C[C@@H](COC=1C=CC(=C(C1)NS(=O)(=O)C)OCC1=CC=CC=C1)O)C1CCC(CC1)C1=CC=C(C=C1)C(=O)N1CCC(CC1)CC1=CC=CC=C1 | C49H57N3O6S
